US07645771B2
A mixture of 2-methyl-1-[8-(2-{4-[3-(trifluoromethyl)phenyl]piperidin-4-yl}ethyl)-8-azabicyclo[3.2.1]oct-3-yl]-1H-benzimidazole dihydrochloride (0.1 g, 0.2 mmol), triethylamine (0.056 mL, 0.4 mmol) and 3-(aminosulfonyl)-4-chlorobenzoyl chloride (0.056 g, 0.22 mmol) in dichloromethane (2 mL) was stirred at rt for 1.5 h. The reaction mixture was diluted with dichloromethane, washed with saturated sodium bicarbonate solution, dried, concentrated and purified by three successive chromatographies on silica gel eluting with mixtures of methanol in dichloromethane to give 2-chloro-5-({4-{2-[(1R,5S)-3-(2-methyl-1H-benzimidazol-1-yl)-8-azabicyclo[3.2.1]oct-8-yl]ethyl}-4-[3-(trifluoromethyl)phenyl]piperidin-1-yl}carbonyl)benzenesulfonamide as a wax (0.002 g, 2%). 1H NMR (400 MHz, CD3OD3) δ 7.79-7.94 (m, 2H), 7.57-7.71 (m, 5H), 7.40-7.54 (m, 2H), 7.15-7.21 (m, 2H), 4.73 (m, 1H), 4.15 (m, 1H), 3.39-3.55 (m, 4H), 3.16-3.22 (m, 1H), 2.52 (s, 3H), 2.34-2.50 (m, 3H), 2.22-2.32 (m, 1H), 1.94-2.12 (m, 10H), 1.68-1.74 (m, 2H). HRMS C36H39ClF3N5O3S m/z 714.2492 (M+H)Cal., 714.2496 (M+H)Obs..

reactant | 2-methyl-1-[8-(2-{4-[3-(trifluoromethyl)phenyl]piperidin-4-yl}ethyl)-8-azabicyclo[3.2.1]oct-3-yl]-1H-benzimidazole dihydrochloride | 0.2 mmol, 0.1 g | Cl.Cl.CC1=NC2=C(N1C1CC3CCC(C1)N3CCC3(CCNCC3)C3=CC(=CC=C3)C(F)(F)F)C=CC=C2
reactant | triethylamine | 0.4 mmol, 0.056 mL | C(C)N(CC)CC | C6H15N
reactant | 3-(aminosulfonyl)-4-chlorobenzoyl chloride | 0.22 mmol, 0.056 g | NS(=O)(=O)C=1C=C(C(=O)Cl)C=CC1Cl | C7H5Cl2NO3S
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | 2-chloro-5-({4-{2-[(1R,5S)-3-(2-methyl-1H-benzimidazol-1-yl)-8-azabicyclo[3.2.1]oct-8-yl]ethyl}-4-[3-(trifluoromethyl)phenyl]piperidin-1-yl}carbonyl)benzenesulfonamide | ClC1=C(C=C(C=C1)C(=O)N1CCC(CC1)(C1=CC(=CC=C1)C(F)(F)F)CCN1[C@H]2CC(C[C@@H]1CC2)N2C(=NC1=C2C=CC=C1)C)S(=O)(=O)N | C36H39ClF3N5O3S
